US20010036946A1
β,β-bis-(ethoxycarbonyl)-1-methyl-1H-indol-3-butanoic acid
Produced analogously to Example A1b) from tert.-butyl β,β-bis-(ethoxycarbonyl)-1-methyl-1H-indol-3-butanoate through the action of trifluoroacetic acid in dichloromethane in a yield of 63.5% of theory. Colourless crystals of Mp. 127-130° C. (diisopropylether). IR(KBr): 1738, 1712 cm−1 (C═O)

reactant | tert.-butyl β,β-bis-(ethoxycarbonyl)-1-methyl-1H-indol-3-butanoate | C(C)OC(=O)C(CC(=O)OC(C)(C)C)(CC1=CN(C2=CC=CC=C12)C)C(=O)OCC | C23H31NO6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropylether | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | ClCCl | CH2Cl2
product | β,β-bis-(ethoxycarbonyl)-1-methyl-1H-indol-3-butanoic acid | yield of 63.5% | C(C)OC(=O)C(CC(=O)O)(CC1=CN(C2=CC=CC=C12)C)C(=O)OCC | C19H23NO6
